US04710323
(5-Amino-2-chlorophenyl)-phenyl sulfoxide
Following the procedure described in Example 40 but using as a starting material instead of (4-amino-3-nitrophenyl)-4-methylphenyl sulfoxide a corresponding amount of (2-chloro-5-nitrophenyl)-phenyl sulfoxide, the title compound is obtained.

reactant | (4-amino-3-nitrophenyl)-4-methylphenyl sulfoxide | NC1=C(C=C(C=C1)C1=C(C=CC(=C1)C)S(=O)C1=C(C=C(C=C1)C)C1=CC(=C(C=C1)N)[N+](=O)[O-])[N+](=O)[O-] | C26H22N4O5S
reactant | (2-chloro-5-nitrophenyl)-phenyl sulfoxide | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)C1=CC=CC=C1 | C12H8ClNO3S
product | (5-Amino-2-chlorophenyl)-phenyl sulfoxide | Yield: 89% | NC=1C=CC(=C(C1)S(=O)C1=CC=CC=C1)Cl | C12H10ClNOS
